US08664217B2
1-(3-Dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (WSC) (144 mg, 0.75 mmol) and 1-hydroxybenzotriazole (HOBt) (115 mg, 0.75 mmol) were added to a DMF solution (5 ml) of 1,3,3,5-tetramethyl-7-{3-[(2-methylaminoethyl)pyridin-4-ylmethylamino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (227 mg, 0.5 mmol) and benzoic acid (92 mg, 0.75 mmol), and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=1:0→10:1). The purified product was concentrated under reduced pressure, and a 4N-hydrogen chloride ethyl acetate solution (0.14 ml) was added to the residue (an ethyl acetate solution). The precipitated insoluble matter was collected by filtration, washed with ethyl acetate, and dried to thereby obtain 120.5 mg (yield: 40%) of N-methyl-N-(2-{pyridin-4-ylmethyl-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]amino}ethyl)benzamide dihydrochloride as a white powder.

reactant | 1-(3-Dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.75 mmol, 115 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3,3,5-tetramethyl-7-{3-[(2-methylaminoethyl)pyridin-4-ylmethylamino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.5 mmol, 227 mg | CN1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(CC2=CC=NC=C2)CCNC | C25H35N5O3
reactant | benzoic acid | 0.75 mmol, 92 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-methyl-N-(2-{pyridin-4-ylmethyl-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]amino}ethyl)benzamide dihydrochloride | 120.5 mg, yield: 40% | Cl.Cl.CN(C(C1=CC=CC=C1)=O)CCN(CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)C)C=C1)CC1=CC=NC=C1 | InChI=1S/C32H39N5O4.2ClH/c1-32(2)30(39)35(4)27-13-12-26(22-28(27)36(5)31(32)40)41-21-9-18-37(23-24-14-16-33-17-15-24)20-19-34(3)29(38)25-10-7-6-8-11-25;;/h6-8,10-17,22H,9,18-21,23H2,1-5H3;2*1H
